US06573289B1
Production of N-{6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl}methanesulfonamide
In a similar manner to that described in Example 51-(ii), a reaction was carried out by using 1-{6-[(diphenylmethylene)amino]naphthalen-2-yl}-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (2.0 g) to give crude product containing 1-(6-aminonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol as a pale yellow oily substance. The crude product was dissolved in dichloromethane (10 ml). To the solution were added pyridine (0.71 ml) and methanesulfonyl chloride (0.34 ml) under ice cooling, and the mixture was stirred for 30 min. To the mixture was added 0.1N-aqueous solution of sodium hydroxide, and the mixture was extracted with ethyl acetate, washed with saturated sodium chloride solution and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent, hexane:ethyl acetate=1:1) to give the titled compound (1.16 g) as a pale yellow powder.

reactant | 1-{6-[(diphenylmethylene)amino]naphthalen-2-yl}-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 2.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C49H41N3O
reactant | 1-(6-aminonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | NC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H33N3O
reactant | methanesulfonyl chloride | 0.34 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.71 ml | N1=CC=CC=C1 | C5H5N
product | N-{6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl}methanesulfonamide | 1.16 g | OC(C(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C | C18H21N3O3S
